* eeschema netlist version 1.1 (spice format) creation date: monday 22 april 2013 12:09:21 pm ist

* Plotting option vplot8_1
* Plotting option vplot8_1
r3  0 6 1000
r5  5 6 100000
r6  0 5 2000
r4  5 3 1000
e1  3 0 4 6 2
r2  6 4 100000
v1  1 0 sine(0 5 50 0 0)
r1  4 1 10000

.tran  2e-03 20e-03 0e-00

* Control Statements 
.control
run
plot v(1) 
plot v(4) v(3) v(5) 
.endc
.end
